US04923987
A mixture of 5.0 g of 2-nitromethylene-tetrahydro-2H-1,3-thiazine and 5.5 g of butyric anhydride was stirred under nitrogen at 85°-90° C. for 5 hours. The resulting dark oil was cooled, diluted with methylene chloride, washed successively with concentrated ammonium hydroxide, water and saturated salt solution, then dried with sodium sulphate and concentrated under reduced pressure to leave a dark oil which was chromatographed on "Florosil" (R.T.M.) using methylene chloride as eluent to give a solid which was washed with hexane to leave 1-nitro-1-(tetrahydro-2H-1,3-thiazin-2-yl-idene)-2-pentanone as a yellow solid, m.p. 54°-58.5° C.

reactant | 2-nitromethylene-tetrahydro-2H-1,3-thiazine | 5.0 g | [N+](=O)([O-])C=C1SCCCN1 | C5H8N2O2S
reactant | butyric anhydride | 5.5 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-nitro-1-(tetrahydro-2H-1,3-thiazin-2-yl-idene)-2-pentanone | [N+](=O)([O-])C(C(CCC)=O)=C1SCCCN1 | C9H14N2O3S
